US06468998B1
1-Azabicyclo[2.2.2]octane-3-carbonyl chloride and (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine were reacted under the same conditions as in Example 53 to give (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-1-azabicyclo[2.2.2]octane-3-carboxamide.

reactant | 1-Azabicyclo[2.2.2]octane-3-carbonyl chloride | N12CC(C(CC1)CC2)C(=O)Cl | C8H12ClNO
reactant | (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F | C12H17FN2
product | (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-1-azabicyclo[2.2.2]octane-3-carboxamide | FC1=CC=C(C=C1)CCN1CC(CC1)NC(=O)[C@@H]1CN2CCC1CC2 | C20H28FN3O
